US09210927B2
Preparation of (E)-4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methyl-N-(2,2,2-trifluoroethyl)benzamide (AC6)
To a stirred solution of (E)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoic acid in DMF was added 2,2,2-trifluoroethylamine, 1-hydroxybenzotriazole hydrate (HOBt.H2O), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC.HCl) and DIPEA, and the reaction mixture was stirred at 25° C. for 18 h. The reaction mixture was diluted with H2O and extracted with EtOAc. The combined organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; eluting with hexane:EtOAc afforded a white semi-solid (110 mg, 50%): 1H NMR (400 MHz, CDCl3) 7.40 (m, 2H), 7.26 (m, 3H), 6.56 (d, J=16.0 Hz, 1H), 6.48 (dd, J=16.0, 8.0 Hz, 1H), 5.82 (br s, 1H), 4.08 (m, 3H), 2.52 (s, 3H); ESIMS m/z 468.40 ([M−H]−); IR (thin film) 1657, 1113, 804 cm−1.

reactant | (E)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoic acid | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C18H13Cl2F3O2
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
reactant | 1-hydroxybenzotriazole hydrate | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | (E)-4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methyl-N-(2,2,2-trifluoroethyl)benzamide | 110 mg, 50% | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)NCC(F)(F)F)C=C1)C)C(F)(F)F | C20H15Cl2F6NO
